US06265536B1
To a suspension of 1-Hydroxybenzotriazole (0.283 g) and 6-octyloxymethylpicolinic acid (0.505 g) in dichloromethane (15 ml) was added 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride (WSCD.HCl) (0.473 g), and stirred for 3 hours at ambient temperature. The reaction mixture was poured into water. The organic layer was taken, and dried over magnesium sulfate. The magnesium sulfate was filtered off, and the filtrate was evaporated under reduced pressure to give 1-(6-Octyloxymethylpicolinoyl)benzotriazole 3-oxide (737 mg).

reactant | 1-Hydroxybenzotriazole | 0.283 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 6-octyloxymethylpicolinic acid | 0.505 g | C(CCCCCCC)OCC1=CC=CC(=N1)C(=O)O | C15H23NO3
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide hydrochloride | 0.473 g | Cl.C(C)N=C=NCCCN(C)C
reactant | water | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-(6-Octyloxymethylpicolinoyl)benzotriazole 3-oxide | 737 mg | C(CCCCCCC)OCC1=CC=CC(=N1)C(=O)N1N=[N+](C2=C1C=CC=C2)[O-] | C21H26N4O3
